US06235746B1
4-Benzoyl-N-(3,4,5-trimethoxyphenyl)-2-pyrimidineamine
The pyrimidine-4-carboxamide used as starting material was prepared by treating a solution of 4-carboxy-N-(3,4,5-trimethoxyphenyl)-2-pyrimidineamine hydrochloride (2.0 g, 5.86 mmol) and triethylamine (2.0 ml, 14.0 mmol) in CH2Cl2 (40 ml), cooled to −20° under a nitrogen atmosphere, with isobutylchloroformate (1.1 ml, 7.0 mmol). The resulting mixture was stirred for 20 min. before N,O-dimethylhydroxylamine hydrochloride (683 mg, 7.0 mmol) and triethylamine (1.0 ml, 7.0 mmol) were added and the reaction allowed to warm to room temperature over 3 h. After washing with 2M hydrochloric acid (1×50 ml) and 2M NaOH solution (1×50 ml), the reaction was dried (MgSO4) and concentrated under reduced pressure. The residue was subjected to column chromatography [silica ethyl acetate] to give the desired product (1.02 g), as a yellow oil. δH (CDCl3) 8.51 (1H, d, J 4.9 Hz), 7.21 (1H, br s), 6.92 (3H, br s), 3.86 (6H, s), 3.82 (3H, s), 3.69 (3H, br s) and 3.36 (3H, s). MS m/z 349 (M+H)+.

reactant | pyrimidine-4-carboxamide | N1=CN=C(C=C1)C(=O)N | C5H5N3O
reactant | 4-carboxy-N-(3,4,5-trimethoxyphenyl)-2-pyrimidineamine hydrochloride | 5.86 mmol, 2.0 g | Cl.C(=O)(O)C1=NC(=NC=C1)NC1=CC(=C(C(=C1)OC)OC)OC
reactant | triethylamine | 14.0 mmol, 2.0 ml | C(C)N(CC)CC | C6H15N
reactant | isobutylchloroformate | 7.0 mmol, 1.1 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | N,O-dimethylhydroxylamine hydrochloride | 7.0 mmol, 683 mg | Cl.CNOC
reactant | triethylamine | 7.0 mmol, 1.0 ml | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 40 ml | C(Cl)Cl | CH2Cl2
product | 4-Benzoyl-N-(3,4,5-trimethoxyphenyl)-2-pyrimidineamine | 1.02 g | C(C1=CC=CC=C1)(=O)C1=NC(=NC=C1)NC1=CC(=C(C(=C1)OC)OC)OC | C20H19N3O4
